US05376681
2,2,4,6,7-Pentamethyl-5-nitro-3-phenyl-2,3-dihydrobenzofuran
The mixed solution of acetic anhydride (3 ml) and acetic acid (3 ml) was cooled and nitric acid (3 ml) was added cautiously with stirring. Then a solution of 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydrobenzofuran (3.7 g, 13.9 mmol) in acetic anhydride (3 ml) was added dropwise and the mixture was stirred for 30 minutes. The reaction mixture was poured into ice-cold water and the product was extracted with ethyl acetate. The extract was washed with saturated sodium bicarbonate solution, dried and concentrated. The residue was purified by column chromatography on silica gel (hexane-isopropyl ether, 9:1) and crystallized from methanol to obtain the desired compound (2.08 g, yield: 48.1%), m.p. 155°-156° C.

reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | 3 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydrobenzofuran | 13.9 mmol, 3.7 g | CC1(OC2=C(C1C1=CC=CC=C1)C(=CC(=C2C)C)C)C | C19H22O
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2,4,6,7-Pentamethyl-5-nitro-3-phenyl-2,3-dihydrobenzofuran | 2.08 g, yield: 48.1% | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)[N+](=O)[O-])C)C | C19H21NO3
